Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, Positive Blood Cx
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ y/o F with PMHx of asthma and RA, with recent
diagnosis of UTI who was referred to the ED after blood cultures
returned positive. The patient reports that she initially noted
chills ___ and ___ (2 days ago). Given persistent 
symptoms,
she presented to her PCP's office yesterday, where labs were
notable for positive UA and mild leukocytosis. She was also
febrile and tachycardic on presentation. She was given a dose of
CTX with improvement in her symptoms. She was discharged home
with plans for repeat evaluation the following day to determine
further course of action. However, blood cultures subsequently
returned positive for GNRs and she was instructed to come to the
ED for further treatment.

ED Course:
Initial VS: 96.0 ___ 18 100% RA 
Labs significant for UA with 31 WBCs. 
Imaging:
Meds given:
___ 13:33 IV Piperacillin-Tazobactam 4.5 g 
VS prior to transfer: 98.2 91 144/80 18 98% RA 

On arrival to the floor, the patient denies any acute 
complaints.
She notes that, in addition to the chills she was experiencing,
she had noted that her urine was cloudy and foul smelling over
the past few days. She denies any dysuria or back pain. She does
report that all of these sypmtoms have since resolved. 
Currently,
she feels well aside from anxiety about being in the hospital.

 
Past Medical History:
RA
Vitamin D deficiency
Trigger finger
Carpal tunnel syndrome, R
Anxiety
Mild intermittent asthma
L ACL surgery

 
Social History:
___
Family History:
Non-contributory for urinary tract infection.

 
Physical Exam:
Admission physical exam:
VS - 98.0 PO 156 / 96 85 18 96 Ra 
GEN - Alert, NAD
HEENT - NC/AT, MMM, PERRL
NECK - Supple
CV - Mildly distant heart sounds, RRR, no m/r/g apprecaited
RESP - CTA B
BACK - no CVAT
ABD - S/NT/ND, BS present
EXT - No ___ edema or calf tenderness noted
SKIN - No apparent rashes
NEURO - Nonfocal
PSYCH - Calm, appropriate

Discharge physical exam
VS: T 98.4, HR 97, BP 127/89, RR 18, SpO2 98% on RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission labs
================
___ 12:55PM BLOOD WBC-9.4 RBC-4.67 Hgb-11.5 Hct-35.2 
MCV-75* MCH-24.6* MCHC-32.7 RDW-16.5* RDWSD-44.8 Plt ___
___ 12:55PM BLOOD Glucose-101* UreaN-16 Creat-0.9 Na-141 
K-4.1 Cl-103 HCO3-24 AnGap-14
___ 07:10AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.2
___ 01:15PM BLOOD Lactate-1.3

Discharge labs
==================

___ 06:53AM BLOOD WBC-6.4 RBC-4.78 Hgb-11.7 Hct-36.1 
MCV-76* MCH-24.5* MCHC-32.4 RDW-16.1* RDWSD-43.9 Plt ___
___ 06:53AM BLOOD Glucose-100 UreaN-14 Creat-1.0 Na-144 
K-4.6 Cl-106 HCO3-25 AnGap-13
___ 06:53AM BLOOD Calcium-9.6 Phos-4.0 Mg-2.3

Micro:
Outpatient labs:
BCx x2 (___) growing E.coli only resistant to Bactrim
UCx (___) growing E.coli only resistant to Bactrim

UCx ___ 10,000 CFU/mL.
BCx ___ x2, ___ x2, ___ x1) pending, no growth to date

 
Brief Hospital Course:
___ y/o F with PMHx of asthma and RA, with recent diagnosis of 
UTI who was referred to the ED after blood cultures returned 
positive

# SEPSIS ___ URINARY TRACT INFECTION
# C/B BACTEREMIA
Patient was recently diagnosed with UTI in outpatient clinic one 
day prior to admission and was referred to the ED after blood 
cultures returned positive. She met SIRS criteria on admission 
and was continued on ceftriaxone (day 1- ___. Blood 
cultures showed E.coli only resistant to Bactrim so she was 
transitioned from ceftriaxone to ciprofloxacin PO for a total 14 
day course (end date ___.

# RA: No acute issues. The patient reported she intermittently 
takes 5 mg prednisone for RA or asthma symptoms every other 
day/2x a week. She has been on steroids since ___ when she used 
to be on a daily dose regimen. Given current stability and 
improvement, there was no indication to triple dose of steroids 
for 3 days.

# Asthma: Takes intermittent prednisone as above. No respiratory 
complaints on exam currently.

# GERD: Continue home PPI.

TRANSITIONAL ISSUES
=======================
- To complete antibiotics for bacteremia and UTI (end date 
___

Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Indomethacin 75 mg PO DAILY:PRN Pain - Moderate 
2. PredniSONE 5 mg PO DAILY:PRN asthma or arthritis symptoms 
3. FoLIC Acid 1 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath or 
wheezing 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Ascorbic Acid Dose is Unknown  PO Frequency is Unknown 
8. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
9. Phytonadione Dose is Unknown  PO Frequency is Unknown 
10. Vitamin D Dose is Unknown  PO Frequency is Unknown 
11. Magnesium Oxide Dose is Unknown  PO Frequency is Unknown 
12. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 
13. Ferrous Sulfate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*23 Tablet Refills:*0 
2.  Ascorbic Acid ___ mg PO DAILY  
3.  Ferrous Sulfate 325 mg PO QOD  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Magnesium Oxide 400 mg PO DAILY  
6.  Phytonadione 5 mg PO ONCE Duration: 1 Dose  
7.  Vitamin D 1000 UNIT PO DAILY  
8.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath or 
wheezing  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Indomethacin 75 mg PO DAILY:PRN Pain - Moderate  
12.  Omeprazole 20 mg PO DAILY  
13.  PredniSONE 5 mg PO DAILY:PRN asthma or arthritis symptoms  
14. HELD- Calcium Carbonate Dose is Unknown  PO Frequency is 
Unknown  This medication was held. Do not restart Calcium 
Carbonate until you are finished taking the ciprofloxacin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bacteremia
Sepsis
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___,

You were admitted due to a blood infection. You results came 
back which showed you had E. Coli in your blood. Likely a 
urinary source of infection. You were treated with ciprofloxacin 
with plan for 14 days total of antibiotics (end date will be 
___.

It was a pleasure being part of your care.

Your ___ team
 
Followup Instructions:
___